US06573263B2
Analogously to Example 29A, 4.90 g (18.7 mmol) of methyl 2-acetyl-2-methyl-5-phenylpentanoate are reacted with 10.0 ml of a 3.5 M potassium hydroxide solution to give 2-acetyl-2-methyl-5-phenylpentanoic acid.

reactant | methyl 2-acetyl-2-methyl-5-phenylpentanoate | 18.7 mmol, 4.90 g | C(C)(=O)C(C(=O)OC)(CCCC1=CC=CC=C1)C | C15H20O3
reactant | potassium hydroxide | 3.5 M | [OH-].[K+]
product | 2-acetyl-2-methyl-5-phenylpentanoic acid | C(C)(=O)C(C(=O)O)(CCCC1=CC=CC=C1)C | C14H18O3
